US03998814
p-Benzyloxybenzaldehyde (25 g.), β-anilinopropionitrile (22 g.), and dimethylsulphoxide (25 ml.) were heated together to 95° C, and a slurry of sodium methoxide (1 g.) in dimethylsulphoxide (20 ml.) was carefully added such that the temperature rose to 105° C. The mixture was heated to 125°-130° and held at that temperature for 11/2 hr. The reaction mixture was poured into ice-water (500 ml.), and the resulting solid was collected and washed by decantation. The crude product was slurried in cold ethanol to give β-anilino-α-(p-benzyloxybenzyl) acrylonitrile. Wt. = 27 g.

reactant | p-Benzyloxybenzaldehyde | 25 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | β-anilinopropionitrile | 22 g | N(C1=CC=CC=C1)CCC#N | C9H10N2
reactant | sodium methoxide | 1 g | C[O-].[Na+]
solvent | dimethylsulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 25 ml | CS(=O)C | C2H6OS
product | β-anilino-α-(p-benzyloxybenzyl) acrylonitrile | N(C1=CC=CC=C1)C=C(C#N)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H20N2O
